US04542022
(b) 6-Chloro-4-chloromethyl-2H-1-benzopyrane
A solution of 2.86 g of 6-chloro-4-hydroxymethyl-2H-1-benzopyrane in 50 ml of ether is reacted with 2 ml of pyridine. To the resulting mixture are then slowly added dropwise, with cooling by ice/water, 1.71 g of thionylchloride in 10 ml of diethylether. Reaction is continued for 5 hours at room temperature, the mixture poured onto ice/water and the ether phase separated. This is then washed with saturated aqueous NaHCO3 and water, dried over MgSO4 and concentrated by evaporation. The product is used directly for further reaction.

reactant | 6-chloro-4-hydroxymethyl-2H-1-benzopyrane | 2.86 g | ClC=1C=CC2=C(C(=CCO2)CO)C1 | C10H9ClO2
reactant | pyridine | 2 ml | N1=CC=CC=C1 | C5H5N
reactant | thionylchloride | 1.71 g | S(=O)(Cl)Cl | Cl2OS
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | diethylether | 10 ml | C(C)OCC | C4H10O
product | 6-Chloro-4-chloromethyl-2H-1-benzopyrane | ClC=1C=CC2=C(C(=CCO2)CCl)C1 | C10H8Cl2O
